* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.param sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield__slope = 0.0
* statistics {
*   mismatch {
*     vary  sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield__slope dist=gauss std=0.0183
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield c0 c1 b
+ 
.param  mult = 1.0
+ 
+ ctot_a = {7.833e-16*sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield__cor+0.85105/sqrt(mult/0.50527)*sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield__slope*7.833e-16*sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield__cor}
+ cli2s = {4.548e-17*cli2s_vpp}
+ rat_m2 = 0.596
+ rat_m1 = 0.387
+ rat_m1li = 0.017
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_m1li = {rat_m1li*ctot_a}
+ nvia_c0 = 8.0
+ nvia_c1 = 4.0
+ ncon_c0 = 16.0
rm21 c0 a1 r = {28*rm2}
ccmvpp1p8x1p8 a1 c1  c = {cap_m2}
rvia1 c0 d0 r = {rcvia/nvia_c0}
rvia2 c1 d1 r = {rcvia/nvia_c1}
rm11 d0 b1 r = {22*rm1}
cm1 b1 d1 c = {cap_m1}
rcon d0 e0 r = {rcl1/ncon_c0}
rli1 e0 f0 r = {rl1}
cli2b f0 b c = {cli2s}
cm1li d1 e0 c = {cap_m1li}
.ends sky130_fd_pr__cap_vpp_01p8x01p8_m1m2_noshield
